US06897231B2
SYNTHESIS OF PHENYL-N-(3-PHENYL(1H-INDAZOL-5-YL))CARBOXAMIDE
To a mixture of 5-amino-3-phenyl-1H-indazole (190 mg, 0.909 mmol) in acetonitrile (6 mL) was added benzoyl chloride (123 mg, 0.909 mmol). The solution was allowed to reflux for three hours. Triethylamine (3 drops) was added over a period of one hour while reflux continued for an additional hour. The solution was condensed and distilled water was added. The reaction mixture was extracted with ethyl acetate. The organics were dried using sodium sulfate, and condensed to give a solid. The solid was purified using chromatography (SiO2, 30-45% ethyl acetate/hexanes) to give the title compound (20 mg, 8% yield). 1H NMR (DMSO-d6) δ 13.40 (br s, 1H), 10.32 (s, 1H), 8.56 (s, 1H), 7.96 (m, 4H), 7.75 (d, 1H), 7.55 (m, 6H), 7.39 (t, 1H); ES-MS (m/z) 314 [M+1]+.

reactant | 5-amino-3-phenyl-1H-indazole | 0.909 mmol, 190 mg | NC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C13H11N3
reactant | benzoyl chloride | 0.909 mmol, 123 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | Triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | PHENYL-N-(3-PHENYL(1H-INDAZOL-5-YL))CARBOXAMIDE | 20 mg, 8% yield | C1(=CC=CC=C1)C(=O)NC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C20H15N3O
